US05656752
21 g (0.1 mol) of 1,4-dihydroxy-2,3-dicyanonaphthalene, 100 ml of dimethyl sulfoxide and 38.5 g (0.25 mol) of diethyl sulfate were introduced at room temperature as the initial charge. 38.6 g (0.28 mol) of potassium carbonate were added with stirring. The batch was then stirred at 100° C. for 10 h and thereafter poured onto ice-water, and the resulting precipitate was washed with water and dried to leave 23.3 g of 1,4-diethoxy-2,3-dicyanonaphthalene (theory: 87%; melting point: 167° C.).

reactant | 1,4-dihydroxy-2,3-dicyanonaphthalene | 0.1 mol, 21 g | OC1=C(C(=C(C2=CC=CC=C12)O)C#N)C#N | C12H6N2O2
reactant | diethyl sulfate | 0.25 mol, 38.5 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | potassium carbonate | 0.28 mol, 38.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 1,4-diethoxy-2,3-dicyanonaphthalene | 23.3 g, 87% | C(C)OC1=C(C(=C(C2=CC=CC=C12)OCC)C#N)C#N | C16H14N2O2
